### PR TITLE
adherence value, extracted seq, limit point

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/sequences.v [hunk 1]
```diff
@@ -2671,6 +2672,163 @@ apply: nondecreasing_cvgn_le; last exact: is_cvg_geometric_series.
...
+
+Let idx_ (x : elt_type) := (proj1_sig x).2.
+
+Let N_idx x : `|u_ (N_ x) - a| <= (idx_ x)%:R^-1.
+Proof. by move: x => [[? ?]] []. Qed.
+
+Let A_nonempty x : A (N_ x) (idx_ x) !=set0.
+Proof. by move: x => [[? ?]] []. Qed.
+
+Let elt_rel i j := [/\ (idx_ j = (idx_ i).+1),
```
Comment (affeldt-aist) [inline theories/sequences.v]: rm parentheses

File: theories/sequences.v [hunk 2]
```diff
@@ -2671,6 +2672,163 @@ apply: nondecreasing_cvgn_le; last exact: is_cvg_geometric_series.
...
+by move/increasing_seqP/leqW_mono : Nv => ->.
+Qed.
+
+Let idx_incr v n : (forall n, elt_rel (v n) (v n.+1)) -> (n <= idx_ (v n))%N.
+Proof.
+by move=> vrel; elim: n => // n /leq_ltn_trans; apply; have [->] := vrel n.
+Qed.
+
+Let adherence_value_cvg_direct : adherence_value u_ a ->
+  exists2 f : nat -> nat, increasing_seq f & (u_ \o f @ \oo --> a).
```
Comment (affeldt-aist) [inline theories/sequences.v]: rm parentheses?

File: theories/sequences.v [hunk 3]
```diff
@@ -2671,6 +2672,163 @@ apply: nondecreasing_cvgn_le; last exact: is_cvg_geometric_series.
 by apply: nondecreasing_series => ? _ /=; rewrite pmulr_lge0 // exprn_gt0.
 Qed.
 
+Definition adherence_value {R : numDomainType} (u_ : R^nat) (a : R) :=
+  forall (e : R) n, e > 0 -> exists2 p, (p >= n)%N & `|u_ p - a| <= e.
```
Comment (Tragicus) [inline theories/sequences.v]: I am wondering if we would prefer `a \in closure (range u_ : set R^o)`.

File: reals/reals.v [hunk 4]
```diff
@@ -656,6 +656,18 @@ rewrite (le_trans _ (lbBi _ Bk)) //.
 by move/negP : i1x; rewrite -ltNge ltzD1.
 Qed.
 
+Lemma nat_has_minimum (A : set nat) : A !=set0 ->
+  exists j, A j /\ forall k, A k -> (j <= k)%N.
+Proof.
+move=> A0.
+pose B : set int := [set x%:~R | x in A].
+have B0 : B !=set0 by case: A0 => a Aa; exists a%:~R, a.
```
Comment (Tragicus) [inline reals/reals.v]:
```suggestion
have B0 : B !=set0 by apply: image_nonempty.
```
golfing

File: reals/reals.v [hunk 5]
```diff
@@ -656,6 +656,18 @@ rewrite (le_trans _ (lbBi _ Bk)) //.
...
+have : lbound B 0 by move=> _ [b0 Bb0 <-]; rewrite ler0z.
+move/(int_lbound_has_minimum B0) => [_ [[i Ai <-]]] Bi.
+exists i; split => // k Bk.
```
Comment (Tragicus) [inline reals/reals.v]:
```suggestion
have: lbound B 0 by move=> _ [b0 Bb0 <-]; rewrite ler0z.
move/(int_lbound_has_minimum B0) => [_ [[i Ai <-]]] Bi.
exists i; split=> // k Bk.
```

File: theories/sequences.v (hunk 3 above)
Comment (Tragicus) [reply theories/sequences.v]: Ah, of course not, the elements of the sequence would all be adherence values.
